US08957064B2
2-{1-[4-(6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzyl]-piperidin-4-yl}-3H-imidazo[4,5-c]pyridine
121 mg (0.6 mmol) 2-piperidine-4-yl-3H-imidazo[4,5-c]pyridine hydrochloride salt was dissolved in 3 mL methanol. 0.2 mL (1.2 mmol) Triethylamine in 3 mL DMF, 150 mg (0.5 mmol) 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde, 0.08 mL (1.3 mmol) acetic acid and 200 mg (1 mmol) NaBH(OAc)3 were added. The reaction mixture was stirred at room temperature and after 1 and 2 hours two additional portions of 2 equivalents NaBH(OAc)3 each were added. The solvent was removed by evaporation and the residue was purified by chromatography on silica gel (dichloromethane/methanol) to yield 126 mg of the desired product.

reactant | 2-piperidine-4-yl-3H-imidazo[4,5-c]pyridine hydrochloride salt | 0.6 mmol, 121 mg | Cl.N1CCC(CC1)C1=NC2=C(C=NC=C2)N1
reactant | Triethylamine | 1.2 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | 0.5 mmol, 150 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | acetic acid | 1.3 mmol, 0.08 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 1 mmol, 200 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 2 equivalents | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-{1-[4-(6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzyl]-piperidin-4-yl}-3H-imidazo[4,5-c]pyridine | 126 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(CN1CCC(CC1)C1=NC3=C(C=NC=C3)N1)C=C2 | C30H27N7
